US07223769B2
In 5 ml of tetrahydrofuran was suspended 0.24 g of sodium hydride (60% in oil), to which 0.4 ml of a solution containing 0.26 g of 2-methylbutan-2,3-diol in tetrahydrofuran was added dropwise at 0° C., followed by stirring for 10 minutes. To this was added dropwise 0.4 ml of a solution containing 0.38 g of 4,6-dichloropyrimidin in tetrahydrofuran, followed by stirring at 0° C. for 4 hours. To this was added dropwise 0.4 ml of a solution containing 0.20 g of 2-butyn-1-ol and further added 0.12 g of sodium hydride (60% in oil), followed by stirring at room temperature for 3.5 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.41 g of 4-(2-butynyloxy)-6-(2-hydroxy-1,2-dimethylpropyloxy)pyrimidine.

reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 2-methylbutan-2,3-diol | 0.26 g | CC(C)(C(C)O)O | C5H12O2
reactant | 4,6-dichloropyrimidin | 0.38 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-butyn-1-ol | 0.20 g | C(C#CC)O | C4H6O
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(2-hydroxy-1,2-dimethylpropyloxy)pyrimidine | 0.41 g | C(C#CC)OC1=NC=NC(=C1)OC(C(C)(C)O)C | C13H18N2O3
